US07569578B2
(±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(3-benzyl-[1,2,4]oxadiazol-5-yl)-2-(7-methyl-1H-indazol-5-yl)-ethyl]-amide
Sodium hydride (8 mg, 0.366 mmol) was added to a solution of N-hydroxy-2-phenyl-acetamidine (50 mg, 0.366 mmol) in tetrahydrofuran (15 mL). The solution was stirred at 60° C. for 15 min. A solution of (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester (60 mg, 0.122 mmol) in tetrahydrofuran (5 mL) was added. The reaction mixture was stirred at 60° C. for 18 h. The reaction was then cooled to room temperature and the solvent removed under reduced pressure. The residue was dissolved with methylene chloride and partitioned with water and extracted with methylene chloride (3×50 mL). The organic layer was dried over magnesium sulfate, filtered and concentrated under reduce pressure. Purification was carried out by preparative HPLC. LC/MS: tR=1.79 min, 591 (MH)+.

reactant | Sodium hydride | 0.366 mmol, 8 mg | [H-].[Na+]
reactant | N-hydroxy-2-phenyl-acetamidine | 0.366 mmol, 50 mg | ONC(CC1=CC=CC=C1)=N | C8H10N2O
reactant | (±)-3-(7-methyl-1H-indazol-5-yl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid methyl ester | 0.122 mmol, 60 mg | COC(C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)=O | C26H30N6O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (±)-4-(2-Oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid [1-(3-benzyl-[1,2,4]oxadiazol-5-yl)-2-(7-methyl-1H-indazol-5-yl)-ethyl]-amide | C(C1=CC=CC=C1)C1=NOC(=N1)C(CC=1C=C2C=NNC2=C(C1)C)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C33H34N8O3
